US04877807
(d) cis-1-Methyl-4-phenyl-5-m-chlorostyrylpyrrolidin-2-one
32.8 g (77 mmol) of n-butyllithium (15% in hexane) were added dropwise under nitrogen with ice cooling to 36.0 g (77 mmol) of triphenyl-m-chlorobenzylphosphonium bromide in 150 ml of toluene in the course of 20 minutes, and the orange suspension was subsequently stirred for 15 minutes. 15.6 g (77 mmol) of cis-5-formyl-1-methyl-4- phenylpyrrolidin-2-one (German Laid-Open Application DOS 3,537,075 and 3,632,589; J. Org. Chem. 52 (1987), 4352) in 120 ml of toluene were then added dropwise and stirred in at room temperature for 3 hours (color change toward pale yellow). 200 ml of H2O were then added, the mixture was acidified with dilute HCL and filtered with suction, the phases were separated, the aqueous phase was extracted twice more with toluene, and the combined organic phases were washed with H2O, dried and concentrated. The crude product was taken up in 100 ml of methyl t-butyl ether and filtered with suction and cooling to remove precipitated triphenylphosphine oxide. The filtrate was concentrated and purified by column chromatography (silica gel, eluent: 98/2 methylene chloride/methanol); yield: 16.1 g (67%). Judging by a 1H-NMR spectrum, the styryl side chain is 90% in the trans configuration and 10% in the cis configuration.

reactant | n-butyllithium | 77 mmol, 32.8 g | C(CCC)[Li]
reactant | triphenyl-m-chlorobenzylphosphonium bromide | 77 mmol, 36.0 g | [Br-].C1(=CC=CC=C1)[P+](CC1=CC(=CC=C1)Cl)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | cis-5-formyl-1-methyl-4- phenylpyrrolidin-2-one | 77 mmol, 15.6 g | C(=O)[C@@H]1[C@@H](CC(N1C)=O)C1=CC=CC=C1 | C12H13NO2
reactant | H2O | 200 ml | O | H2O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | cis-1-Methyl-4-phenyl-5-m-chlorostyrylpyrrolidin-2-one | CN1C(C[C@H]([C@H]1C=CC1=CC(=CC=C1)Cl)C1=CC=CC=C1)=O | C19H18ClNO
